US05866568
Using an analogous procedure to that described in Example 62, part (i), but starting from 1-bromo-4-(2-methylpropanoyl)benzene and 1,3-propanediol there was thus obtained (in 42% yield) 2-(4-bromophenyl)-2-isopropyl-1,3-dioxane (4.25g), b.p. 116° C. at 0.4 mm Hg; 1H NMR (acid free CDCl3): 0.8 (d, 3 H), 1.15-1.25 (m, 1 H), 1.85 (m, 2 H), 2.0-2.1 (m, 1 H), 3.68 (d of t, 2 H), 3.75-3.85 (m, 2 H) 7.15-7.25 (m, 2 H), 7.45-7.55 (m, 2 H): mass spectrum (CI+) 285 (M+H)+.

reactant | 1-bromo-4-(2-methylpropanoyl)benzene | BrC1=CC=C(C=C1)C(C(C)C)=O | C10H11BrO
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 2-(4-bromophenyl)-2-isopropyl-1,3-dioxane | 4.25g, 42% yield | BrC1=CC=C(C=C1)C1(OCCCO1)C(C)C | C13H17BrO2
